* D:\Misc\TTGO-HiGrow\electronics\soil_sensor_analysis.asc
V1 N001 0 PULSE(0 3.3 0 0 0 0.6u 1.2u 200000)
R1 N002 N001 10000
C1 N002 0 {C}
D1 N002 Humi D
C2 Humi 0 1µ
R2 Humi 0 1000000
.model D D
.lib C:\Users\ONIDemoUnit2\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 0.1 0 0.01
.step oct param C 0.1f 0.1p 2
.meas HV MAX V(Humi)
.backanno
.end
